US07964643B2
Biphenyl-4-sulfonic acid-(5-hydroxypentyl)-methyl-amide (ABD-186)
Using a method analogous to that described in Example 4, with biphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide and methyl iodide, the title compound was obtained. δC (CDCl3, 62.9 MHz): 22.7, 27.4, 32.2, 34.7, 50.0, 62.7, 127.4, 127.9, 128.5, 129.1, 136.0, 139.3 and 145.4.

reactant | biphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C17H21NO3S
reactant | methyl iodide | CI | CH3I
product | Biphenyl-4-sulfonic acid-(5-hydroxypentyl)-methyl-amide | OCCCCCN(S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C | C18H23NO3S
